US06518433B1
Preparation of 1-(2-chloropyrid-5-ylmethyl)-2-nitro-3-methyl-guanidine
A mixture of 4.0 g of 5-(2-chloropyrid-5-ylmethyl)-3-methyl-4-nitroimino-perhydro-1,3,5-oxadiazine and 20 ml of concentrated hydrochloric acid is stirred for 2 hours at 80° C. The reaction mixture is cooled to 5° C., adjusted to a pH of about 5 with concentrated caustic soda solution and filtered. The filtering residue is mixed with diethyl ether/ethyl acetate 1:1 and filtered again. The title compound is thus obtained.

reactant | 5-(2-chloropyrid-5-ylmethyl)-3-methyl-4-nitroimino-perhydro-1,3,5-oxadiazine | 4.0 g | ClC1=NC=C(C=C1)CN1C(N(COC1)C)=N[N+](=O)[O-] | C10H12ClN5O3
reactant | caustic soda | [OH-].[Na+]
solvent | hydrochloric acid | 20 ml | Cl | ClH
product | 1-(2-chloropyrid-5-ylmethyl)-2-nitro-3-methyl-guanidine | ClC1=NC=C(C=C1)CNC(=N[N+](=O)[O-])NC | C8H10ClN5O2
